US04326068
Into a 500 mL flask as described in Example II was charged 32 g (1.0 mole) sulfur, 22 g (0.38 mole) of anhydrous KF and 200 mL tetramethylene sulfone. The mixture was heated to 45°-65° C. and 60 g (0.40 mole) of hexafluoropropene was fed to the reaction mixture over a 3 hour period. There was recovered 60 g (0.40 mole) of unreacted hexafluoropropene in the dry-ice-acetone trap indicating that no reaction with sulfur had taken place. No hexafluorothioacetone dimer was isolated from the reaction mixture.

reactant | sulfur | 1.0 mole, 32 g | [S] | S
reactant | KF | 0.38 mole, 22 g | [F-].[K+]
reactant | tetramethylene sulfone | 200 mL | C1CCCS1(=O)=O | C4H8O2S
reactant | hexafluoropropene | 0.40 mole, 60 g | FC(C(=C(F)F)F)(F)F | C3F6
reactant | hexafluoropropene | 0.40 mole, 60 g | FC(C(=C(F)F)F)(F)F | C3F6
solvent | dry-ice acetone | C(=O)=O.CC(=O)C
product | hexafluorothioacetone | FC(C(=S)C(F)(F)F)(F)F | C3F6S
